US07285563B2
8-Fluoro-5-nitroisoquinoline
To a solution of 8-fluoroisoquinoline (Description 41; 1.24 g, 8.4 mmol) in concentrated sulfuric acid (10 ml) cooled to between −5° C. and 0° C. was added slowly, over 10 minutes, a solution of potassium nitrate (0.93 g, 9.24 mmol) in concentrated sulfuric acid (5 ml). The mixture was stirred at 0° C. for 30 minutes after which time TLC indicated that reaction was complete. The mixture was poured onto ice (100 g) and basified by the careful addition of 33% aqueous ammonium hydroxide. The mixture was extracted with dichloromethane (3×150 ml) and the combined organic layers were washed with brine, dried over Na2SO4 and filtered through a 1 inch plug of silica gel. The silica gel plug was further washed with 150 ml of a 1:1 mix of ethyl acetate and iso-hexanes. The combined organics were evaporated to give the title compound (1.33 g, 82%) as a brown solid.

reactant | 8-fluoroisoquinoline | 8.4 mmol, 1.24 g | FC=1C=CC=C2C=CN=CC12 | C9H6FN
reactant | potassium nitrate | 9.24 mmol, 0.93 g | [N+](=O)([O-])[O-].[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 8-Fluoro-5-nitroisoquinoline | 1.33 g, 82% | FC=1C=CC(=C2C=CN=CC12)[N+](=O)[O-] | C9H5FN2O2
